US08802704B2
Step 1: tert-butyl 2-((4-cyano-2,6-difluorobenzyl)(methyl)amino)acetate
To a degassed solution of 3,5-difluoro-4-methylbenzonitrile (1.53 g, 10 mmol) and AIBN (0.033 g; 0.20 mmol) in ACN (40 mL) was added N-bromo-succinimide (2.14 g, 12.0 mmol). The reaction mixture was heated at 90° C. for 24 hours. The solvent was evaporated in vacuo and the residue partitioned between water and DCM. The organic phase was passed through a hydrophobic frit and the solvent evaporated in vacuo. The residue was dissolved in CAN, and then sarcosine t-butyl ester hydrochloride (1.09 g, 6.0 mmol) and K2CO3 (2.07 g, 15 mmol) added. The reaction mixture was stirred at 70° C. for 18 hours. The suspension was filtered and the filtrate evaporated in vacuo. The residue was purified by flash chromatography (silica, iso-hexane/EtOAc) to afford the title compound. 1H NMR (CDCl3, 400 MHz) δ 7.22 (2H, d, J=5.9 Hz), 3.94 (2H, s), 3.21 (2H, s), 2.41 (3H, s), 1.48 (9H, s).

reactant | 3,5-difluoro-4-methylbenzonitrile | 10 mmol, 1.53 g | FC=1C=C(C#N)C=C(C1C)F | C8H5F2N
reactant | AIBN | 0.20 mmol, 0.033 g | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
reactant | N-bromo-succinimide | 12.0 mmol, 2.14 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | sarcosine t-butyl ester hydrochloride | 6.0 mmol, 1.09 g | Cl.C(C)(C)(C)OC(CNC)=O
reactant | K2CO3 | 15 mmol, 2.07 g | C(=O)([O-])[O-].[K+].[K+]
solvent | ACN | 40 mL | C(C)#N | C2H3N
product | tert-butyl 2-((4-cyano-2,6-difluorobenzyl)(methyl)amino)acetate | C(#N)C1=CC(=C(CN(CC(=O)OC(C)(C)C)C)C(=C1)F)F | C15H18F2N2O2
